** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab9/Design/Lab09_tb.sch
**.subckt Lab09_tb
X1 VDD net5 net3 net4 VOUT GND Lab09
Xbalun1 net2 net1 net3 net4 balun
V1 VDD GND 1.8
I0 net5 GND 10u
VICM net1 GND 0.6 AC 0
VID net2 GND DC 0 AC 1
C1 VOUT GND 5p m=1
**** begin user architecture code


.include sim_script.sim



.include /home/tare/pdk/gf180mcuC/libs.tech/ngspice/design.ngspice
.lib /home/tare/pdk/gf180mcuC/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends

* expanding   symbol:  Lab09.sym # of pins=6
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab9/Design/Lab09.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab9/Design/Lab09.sch
.subckt Lab09 VDD IBn Vin+ Vin- Vout GND
*.iopin VDD
*.iopin GND
*.iopin IBn
*.iopin Vin-
*.iopin Vin+
*.iopin Vout
XM2 V1 Vin+ V2 V2 pmos_3p3 L=430n W=10.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 net1 net1 GND GND nmos_3p3 L=460n W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 V1 net1 GND GND nmos_3p3 L=460n W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 net1 Vin- V2 V2 pmos_3p3 L=430n W=10.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 V2 IBn VDD VDD pmos_3p3 L=600n W=17.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 Vout V1 GND GND nmos_3p3 L=390n W=6.26u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM8 IBn IBn VDD VDD pmos_3p3 L=600n W=14.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
R1 V1 net2 13k m=1
C1 net2 Vout 2.3p m=1
XM7 Vout IBn VDD VDD pmos_3p3 L=600n W=4*17.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  balun.sym # of pins=4
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab9/Design/balun.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab9/Design/balun.sch
.subckt balun d c p n
*.iopin p
*.iopin n
*.iopin d
*.iopin c
E1 net1 c d 0 0.5
V1 p net1 0
F1 d 0 V1 -0.5
R1 d 0 1T m=1
E2 net2 n d 0 0.5
V2 c net3 0
F2 d 0 V2 -0.5
R2 net3 net2 1u m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
